US07345178B2
Methyl 3-amino-5-(thiazolo[5,4-c]pyridin-2-yl)benzoate (150 mg, 0.526 mmol) was mixed together with 3,4,5-trimethoxybenzoyl chloride (121 mg, 0.526 mmol) in 1 mL of pyridine. The reaction mixture was reacted in a Biotage microwave reactor at 160 degrees for 10 min. It was then cooled to room temperature and concentrated. The resulting residue was purified by chromatography using a 9:1 mixture of CH2Cl2 to MeOH to afford 90 mg of methyl 3-(thiazolo[5,4-c]pyridin-2-yl)-5-(3,4,5-trimethoxybenzamido)benzoate(36% yield) (MS, M++H=480).

reactant | Methyl 3-amino-5-(thiazolo[5,4-c]pyridin-2-yl)benzoate | 0.526 mmol, 150 mg | NC=1C=C(C(=O)OC)C=C(C1)C=1SC=2C=NC=CC2N1 | C14H11N3O2S
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.526 mmol, 121 mg | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-(thiazolo[5,4-c]pyridin-2-yl)-5-(3,4,5-trimethoxybenzamido)benzoate | 90 mg, 36% yield | N1=C(SC=2C=NC=CC21)C=2C=C(C(=O)OC)C=C(C2)NC(C2=CC(=C(C(=C2)OC)OC)OC)=O | C24H21N3O6S
